US07786132B2
1-[2-(4-Thiophen-2-yl-pyrimidin-2-ylamino)-ethyl]-imidazolidin-2-one
1-Thiophen-2-yl-ethanone (100 mg, 0.79 mmol) was dissolved in DMF-DMA (1 mL) and heated at 100° C. for 16 h. The solution was concentrated to give a gum. This was treated with a solution of N-[2-(2-oxo-imidazolidin-1-yl)-ethyl]-guanidine hydrochloride (233 mg, 1.12 mmol) in NMP (1.5 mL), cesium carbonate (228 mg, 0.7 mmol) was added and the mixture was heated at 100° C. for 16 h. The mixture was cooled and filtered, concentrated, and purified by preparative HPLC to give the product (140 mg, 61%) as an amorphous off-white solid. MS (M+H)+ 290.

reactant | 1-Thiophen-2-yl-ethanone | 0.79 mmol, 100 mg | S1C(=CC=C1)C(C)=O | C6H6OS
reactant | N-[2-(2-oxo-imidazolidin-1-yl)-ethyl]-guanidine hydrochloride | 1.12 mmol, 233 mg | Cl.O=C1N(CCN1)CCNC(=N)N
reactant | cesium carbonate | 0.7 mmol, 228 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF-DMA | 1 mL | CN(C)C(OC)OC | C5H13NO2
solvent | NMP | 1.5 mL | CN1CCCC1=O | C5H9NO
product | 1-[2-(4-Thiophen-2-yl-pyrimidin-2-ylamino)-ethyl]-imidazolidin-2-one | 140 mg, 61% | S1C(=CC=C1)C1=NC(=NC=C1)NCCN1C(NCC1)=O | C13H15N5OS
